US05229417
N-Methyl-N-nitroso-3-[4-(trifluoromethyl)phenoxy]benzenepropanamine
A solution of sodium nitrite (7.2 g) in water (50 ml) was added slowly to a solution of N-methyl-3-[4-(trifluoromethyl)phenoxy]benzenepropanamine (30 g) and dichloromethane (100 ml) in 10% hydrochloric acid (200 ml). After one hr, the reaction mixture was separated, and the aqueous phase was extracted with dichloromethane. The organic extracts were dried over anhydrous magnesium sulfate, filtered, and the filtrate was evaporated. The residue was chromatographed on silica (eluted with 50% hexanes-dichloromethane). The appropriate fractions were collected and evaporated to give 28 g (95.4%) of product, mp 75°-76° C. Recrystallization from hexanes gave the analytical sample, mp 76°-77° C.

reactant | sodium nitrite | 7.2 g | N(=O)[O-].[Na+]
reactant | N-methyl-3-[4-(trifluoromethyl)phenoxy]benzenepropanamine | 30 g | CNCCCC1=CC(=CC=C1)OC1=CC=C(C=C1)C(F)(F)F | C17H18F3NO
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
solvent | hydrochloric acid | 200 ml | Cl | ClH
product | N-Methyl-N-nitroso-3-[4-(trifluoromethyl)phenoxy]benzenepropanamine | 28 g, 95.4% | CN(CCCC1=CC(=CC=C1)OC1=CC=C(C=C1)C(F)(F)F)N=O | C17H17F3N2O2
